US05236952
ca) 50 ml of 33 percent hydrobromic acid in acetic acid are added dropwise within 15 minutes at 10° to 20 g of 4-(benzyloxy)-3-methoxyphenyl 3-pyridyl ketone dissolved in 200 ml of methylene chloride. After stirring at 20° for 3 hours, the reaction mixture is poured into a mixture of 100 ml of conc. aqueous ammonia and ice. The pH is adjusted to 6 by adding acetic acid. The methylene chloride phase is separated; the aqueous phase is extracted twice more with 100 ml of methylene chloride each time. The combined methylene chloride phases are dried over sodium sulfate and evaporated. The residue is recrystallized from methylene chloride/hexane. There is obtained 4-hydroxy-3-methoxyphenyl 3-pyridyl ketone of m.p. 150°-151°.

reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | 4-(benzyloxy)-3-methoxyphenyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C20H17NO3
reactant | ammonia | 100 ml | N | H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-3-methoxyphenyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)C1=CC(=C(C=C1)O)OC | C13H11NO3
